US07964643B2
3′,4′-Difluorobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-257)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 3,4-difluorophenyl boronic acid were reacted to give the title compound as a white solid. δC (CDCl3, 62.9 MHz): 22.7, 29.3, 31.9, 43.1, 62.5, 116.4 (d, J 17.6), 118.0 (d, J 17.6), 123.5 (d, J 4.9), 127.6, 127.8, 136.4 (m), 139.2, 143.3, 150.5 (d, J 250.0) and 150.7 (d, J 250.0).

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 3,4-difluorophenyl boronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 3′,4′-Difluorobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C17H19F2NO3S
